US07456169B2
1-chloro-5-methoxy-2-methyl-4-nitrobenzene
Acetic anhydride (10 mL) at −10° C. was treated with concentrated nitric acid (>69% pure, 1 mL) and then treated portionwise with 2-chloro-4-methoxy-1-methylbenzene (0.78 g, 5 mmol) at a rate that maintained the internal temperature lower than −5° C. The solution was stirred for additional one hour while warming to room temperature, poured into an ice and water mixture, and extracted with ethyl acetate several times. The organic layers were combined, washed with 10% Na2CO3 and brine, dried (MgSO4), and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel eluting with 9:1 hexanes/ethyl acetate to provide 0.75 g (71%) of the desired product. MS (DCI) m/e 219 (M+NH4)+; 1H NMR (CDCl3, 300 MHz) δ 7.78 (s, 1H), 7.09 (s, 1H), 3.94 (s, 3H), 2.35 (s, 3H).

reactant | Acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-4-methoxy-1-methylbenzene | 5 mmol, 0.78 g | ClC1=C(C=CC(=C1)OC)C | C8H9ClO
solvent | water | O | H2O
product | 1-chloro-5-methoxy-2-methyl-4-nitrobenzene | 0.75 g, 71% | ClC1=C(C=C(C(=C1)OC)[N+](=O)[O-])C | C8H8ClNO3
